US06967197B2
A mixture of N-(2-tetrahydropyranyloxy)-2-[(S)-7-(5-bromo-2-thienyl)-4-methanesulfonyl-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetamide (230 mg), 3-(methylaminocarbonylamino)phenylboronic acid (123 mg) and tetrakis(triphenylphosphine)palladium(0) (24.4 mg) in a mixture of 1,2-dimethoxyethane (2 ml) and 2M aqueous sodium carbonate solution (0.85 ml) was stirred for 4 hours at 80° C. After cooling to room temperature, the mixture was diluted with ethyl acetate, washed with aqueous saturated sodium bicarbonate and brine, dried over sodium sulfate and concentrated in vacuo. The obtained residue was dissolved in methanol (2 ml) and 10% hydrogen chloride in methanol (0.5 ml) was added thereto. After being stirred for 30 minutes at room temperature, the solution was concentrated in vacuo. The residue was purified with silica gel column chromatography (eluent; 0.5-5% methanol in chloroform) to give N-hydroxy-2-[(S)-7-(5-(3-(methylaminocarbonylamino)-phenyl)-2-thienyl)-4-methanesulfonyl-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetamide (30 mg).

reactant | N-(2-tetrahydropyranyloxy)-2-[(S)-7-(5-bromo-2-thienyl)-4-methanesulfonyl-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetamide | 230 mg | O1C(CCCC1)ONC(C[C@@]1(CCN(CCS1(=O)=O)S(=O)(=O)C)C=1SC(=CC1)Br)=O | C17H25BrN2O7S3
reactant | 3-(methylaminocarbonylamino)phenylboronic acid | 123 mg | CNC(=O)NC=1C=C(C=CC1)B(O)O | C8H11BN2O3
solvent | 1,2-dimethoxyethane | 2 ml | COCCOC | C4H10O2
solvent | sodium carbonate | 2M, 0.85 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 24.4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-hydroxy-2-[(S)-7-(5-(3-(methylaminocarbonylamino)-phenyl)-2-thienyl)-4-methanesulfonyl-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetamide | 30 mg | ONC(C[C@@]1(CCN(CCS1(=O)=O)S(=O)(=O)C)C=1SC(=CC1)C1=CC(=CC=C1)NC(=O)NC)=O | C20H26N4O7S3
